US08486979B2
3-fluoro-5-(5-(pyridin-3-yl)-1,2,4-oxadiazol-3-yl)benzonitrile
The title compound was prepared according to the procedure of Example 4B using 3-cyano-5-fluoro-N′-hydroxybenzimidamide (Prepared from 5-fluoroisophthalonitrile using the procedure described in Example 4A.) and nicotinoyl chloride (Aldrich). 1H NMR (300 MHz, DMSO-d6) δ 7.77 (m, 1 H), 8.2 (m, 2 H), 8.4 (m, 1 H), 8.6 (m, 1 H), 8.9 (m, 1 H), 9.4 (m, 1 H) ppm; MS (DCI/NH3) m/z 267 (M+H)+.

reactant | 3-cyano-5-fluoro-N′-hydroxybenzimidamide | C(#N)C=1C=C(C(N)=NO)C=C(C1)F | C8H6FN3O
reactant | 5-fluoroisophthalonitrile | FC=1C=C(C=C(C#N)C1)C#N | C8H3FN2
reactant | nicotinoyl chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
reactant | NH3 | N | H3N
product | 3-fluoro-5-(5-(pyridin-3-yl)-1,2,4-oxadiazol-3-yl)benzonitrile | FC=1C=C(C#N)C=C(C1)C1=NOC(=N1)C=1C=NC=CC1 | C14H7FN4O
